US08957070B2
Ethyl N-[1-(Methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]-N-(2-thienylsulfonyl)aminoacetate
A mixture of N-[1-(methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (0.68 g), ethyl bromoacetate (0.23 mL), potassium carbonate (0.35 g) and N,N-dimethylformamide (6 mL) was stirred at room temperature for 4 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (0.82 g, quantitative) was obtained as pale-yellow crystals from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio). melting point 124-125° C.

reactant | N-[1-(methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.68 g | COCN1C(=CC2=CC=CC(=C12)NS(=O)(=O)C=1SC=CC1)C=1SC=CN1 | C17H15N3O3S3
reactant | ethyl bromoacetate | 0.23 mL | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Ethyl N-[1-(Methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]-N-(2-thienylsulfonyl)aminoacetate | 0.82 g | COCN1C(=CC2=CC=CC(=C12)N(S(=O)(=O)C=1SC=CC1)CC(=O)OCC)C=1SC=CN1 | C21H21N3O5S3
